US06448442B1
a. N-[3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodophenyl]-N′[3,5-bis(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodophenyl]urea
3,5-Bis(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline (260 mg, 0.30 mmol) was dissolved in dioxane (1.0 ml) and a solution of phosgene in toluene (1.93 M, 1.8 ml) was added. The flask was tightly sealed and then heated to 60° C. for 17 h. After cooling to room temperature, the solvent was distilled off at reduced pressure. Dioxane (3 ml) was added and distilled off again. This procedure was repeated twice. Dioxane (1 ml) was added followed by 3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline (0.245 g, 0.31 mmol), prepared according to Example 16a, and Hg(OCOCF3)2 (20 mg). The mixture was stirred for 16 h at room temperature, the solvent was evaporated and the residue was purified by preparative HPLC. Yield: 0.192 g (39%).

reactant | 3,5-Bis(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline | 0.30 mmol, 260 mg | C(C)(=O)OC(CNC(=O)C=1C(=C(N)C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)I)COC(C)=O | C22H26I3N3O10
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline | 0.31 mmol, 0.245 g | C(C)(=O)OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)I | C17H19I3N2O7
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 1.93 M, 1.8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Hg(OCOCF3)2 | 20 mg | [Hg](OC(=O)C(F)(F)F)OC(=O)C(F)(F)F
product | N-[3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodophenyl]-N′[3,5-bis(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodophenyl]urea | C(C)(=O)OCC=1C(=C(C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)I | C40H43I6N5O18
